US05565479
2-[(1-Methyl-5-imidazolyl)methyl]-8H-indeno[1,2-d]thiazole
Starting compounds: 2-bromo-1-indanone, (1-methyl-5-imidazolyl)thioacetamide hydrochloride

reactant | 2-bromo-1-indanone | BrC1C(C2=CC=CC=C2C1)=O | C9H7BrO
reactant | (1-methyl-5-imidazolyl)thioacetamide hydrochloride | Cl.CN1C=NC=C1CC(=S)N
product | 2-[(1-Methyl-5-imidazolyl)methyl]-8H-indeno[1,2-d]thiazole | CN1C=NC=C1CC=1SC2=C(N1)C=1C=CC=CC1C2 | C15H13N3S
